US07592477B2
Step a) Formation of N-[3-(trifluoromethyl)benzyl]-N-[3-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 3-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 3-(trifluoromethyl)benzylamine gave the title compound as an oil. M+(LC/MS(ESI)): 488.5. HPLC (Condition A), Rt: 4.86 min (HPLC purity: 66.8%).

reactant | 3-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C=1C=C(C=O)C=CC1 | C20H28N2O2
reactant | 3-(trifluoromethyl)benzylamine | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
product | N-[3-(trifluoromethyl)benzyl]-N-[3-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | FC(C=1C=C(CNCC2=CC(=CC=C2)C2=NC(=NO2)CCCCCCCCCCC)C=CC1)(F)F | C28H36F3N3O
